US09108936B2
A solution of 2-[(3R)-3-fluoro-pyrrolidin-1-yl]-6-methyl-4-morpholin-4-yl-benzonitrile (0.18 g, 0.62 mmol) in sulphuric acid (8 ml) is heated at 100° C. for 1 h. After completion of the reaction (monitored by TLC), the mixture is poured onto ice water. The aqueous layer is basified with aqueous ammonia to pH 10 and extracted with ethyl acetate (3×20 ml). The combined organic layers are washed with water (10 ml), dried over sodium sulfate and concentrated in vacuo yielding 2-[(3R)-3-fluoro-pyrrolidin-1-yl]-6-methyl-4-morpholin-4-yl-benzamide (0.13 g, 0.423 mmol, 68%).

reactant | 2-[(3R)-3-fluoro-pyrrolidin-1-yl]-6-methyl-4-morpholin-4-yl-benzonitrile | 0.62 mmol, 0.18 g | F[C@H]1CN(CC1)C1=C(C#N)C(=CC(=C1)N1CCOCC1)C | C16H20FN3O
reactant | ammonia | N | H3N
reactant | sulphuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
product | 2-[(3R)-3-fluoro-pyrrolidin-1-yl]-6-methyl-4-morpholin-4-yl-benzamide | 0.423 mmol, 0.13 g, 68% | F[C@H]1CN(CC1)C1=C(C(=O)N)C(=CC(=C1)N1CCOCC1)C | C16H22FN3O2
